US04814454
A. 6-Bromo-2-(2-propenyloxy)naphthalene
A solution of 10.00 g (45 mmol, Aldrich) of 6-bromo-2-naphthol and 2.16 g (49.0 mmol, 1.1 eq. 60% in oil, Aldrich) of NaH dispersion in 100 ml of dry THF was stirred at 0° C., until gas evolution ceased. A solution of 4.60 ml (45.0 mmol, Aldrich) of 4-bromo-1-butene in 25 ml of DMF was added dropwise and the solution was warmed to room temperature, then stirred at 70° C. overnight. To this solution was added 2.28 ml (22.5 mmol, 0.5 eq., Aldrich) of 4-bromo-1-butene and 6 ml of hexamethylphosphoric triamide (HMPA). Then 1.00 g (20.8 mmol, 60% in oil, Aldrich) of NaH dispersion in 10 ml of dry THF was added, stirred at 70° C. for 8 hours and finally heated to 90° C. for 12 hours. The mixture was cooled, water was added, this was extracted with EtOAc, dried (MgSO4) and concentrated in vacuo. Purification was achieved via flash chromatography (silica gel, 1:8 EtOAc/petroleum ether) to yield 4.31 g (35%) of title compound as a bright yellow solid, m.p. 35°-37° C.

reactant | 6-bromo-2-naphthol | 45 mmol, 10.00 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | NaH | 49.0 mmol, 2.16 g, 1.1 eq | [H-].[Na+]
reactant | 4-bromo-1-butene | 45.0 mmol, 4.60 ml | BrCCC=C | C4H7Br
reactant | 4-bromo-1-butene | 22.5 mmol, 2.28 ml, 0.5 eq. | BrCCC=C | C4H7Br
reactant | hexamethylphosphoric triamide | 6 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | NaH | 20.8 mmol, 1.00 g | [H-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-Bromo-2-(2-propenyloxy)naphthalene | 4.31 g, 35% | BrC=1C=C2C=CC(=CC2=CC1)OCC=C | C13H11BrO
